US04195088
7.36 g of 1-methyl-5-chloro-1,3-dihydro-imidazo-(4,5-b)-pyridin-2-one were dissolved in 160 ml of hot dimethylformamide and after cooling the solution to 30° C., 4.64 g of a 50% sodium hydride-oil suspension were slowly added thereto. The mixture was stirred at 30° C. for 2 hours and then 80 ml or 129.6 g of 2-bromo-pyridin and 1.2 g of cuprous chloride were added thereto. The mixture was refluxed for 4 hours and was then cooled and evaporated to dryness. The residue was taken up in ammonium hydroxide solution and the mixture was extracted with chloroform. The organic phase was dried and evaporated to dryness and the residue was taken up in petroleum ether. The mixture was filtered and the product was crystallized from 95% ethanol to obtain 6.5 g of 1-methyl-3-(2-pyridyl)-5-chloro-1,3-dihydroimidazo-(4,5-b)-pyridin-2-one in the form of white crystals melting at 192°-194° C.

reactant | 1-methyl-5-chloro-1,3-dihydro-imidazo-(4,5-b)-pyridin-2-one | 7.36 g | CN1C(NC2=NC(=CC=C21)Cl)=O | C7H6ClN3O
reactant | sodium hydride | [H-].[Na+]
reactant | 2-bromo-pyridin | 129.6 g | BrC1=NC=CC=C1 | C5H4BrN
solvent | dimethylformamide | 160 ml | CN(C=O)C | C3H7NO
product | 1-methyl-3-(2-pyridyl)-5-chloro-1,3-dihydroimidazo-(4,5-b)-pyridin-2-one | 6.5 g | CN1C(N(C2=NC(=CC=C21)Cl)C2=NC=CC=C2)=O | C12H9ClN4O
